* EESchema Netlist Version 1.1 (Spice format) creation date: Thu 26 Jun 2014 14:01:40 BST

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
C7  VAA GND 100n		
D3  Net-_D2-Pad1_ Net-_D3-Pad2_ DIODE		
D2  Net-_D2-Pad1_ Net-_D2-Pad2_ DIODE		
R20  Net-_IC1-Pad7_ Net-_D4-Pad1_ 330R		
R21  Net-_IC1-Pad8_ Net-_D5-Pad1_ 330R		
R22  Net-_IC1-Pad9_ Net-_D6-Pad1_ 330R		
R23  Net-_IC1-Pad11_ Net-_D7-Pad1_ 330R		
D4  Net-_D4-Pad1_ GND LED		
D5  Net-_D5-Pad1_ GND LED		
D6  Net-_D6-Pad1_ GND LED		
D7  Net-_D7-Pad1_ GND LED		
S3  Net-_D2-Pad1_ Net-_D2-Pad1_ GND GND FUNC		
S2  Net-_D2-Pad2_ Net-_D2-Pad2_ GND GND F-		
S1  Net-_D3-Pad2_ Net-_D3-Pad2_ GND GND F+		
C5  VCC GND 100n		
D1  Net-_D1-Pad1_ VAA DIODE		
J1  Net-_C3-Pad2_ Net-_C3-Pad2_ Net-_D1-Pad1_ POWER_JACKRCA		
C3  VAA Net-_C3-Pad2_ 220u		
C4  VCC Net-_C3-Pad2_ 100n		
XU3  Net-_C3-Pad2_ VAA VCC 78L05		
R18  VCC Net-_IC1-Pad1_ R		
C9  PA1 Net-_C9-Pad2_ 470p		
P1  Net-_C2-Pad2_ GND CONN_2		
C6  GND VAA 100n		
C2  Net-_C1-Pad1_ Net-_C2-Pad2_ 220u		
R19  GND Net-_C1-Pad2_ R		
C1  Net-_C1-Pad1_ Net-_C1-Pad2_ 100n		
RV1  GND GND Net-_C8-Pad1_ POT		
C8  Net-_C8-Pad1_ Net-_C8-Pad2_ 100n		
R17  Net-_R17-Pad1_ Net-_C8-Pad1_ R		
XU2  ? GND Net-_C8-Pad2_ GND Net-_C1-Pad1_ VAA ? LM386		
R4  D3 Net-_R12-Pad2_ 20K		
R12  Net-_R11-Pad2_ Net-_R12-Pad2_ 10K		
R11  Net-_R10-Pad2_ Net-_R11-Pad2_ 10K		
R3  D2 Net-_R11-Pad2_ 20K		
R2  D1 Net-_R10-Pad2_ 20K		
R10  Net-_R1-Pad2_ Net-_R10-Pad2_ 10K		
R9  Net-_R1-Pad2_ GND 20K		
R1  D0 Net-_R1-Pad2_ 20K		
R5  D4 Net-_R13-Pad2_ 20K		
R13  Net-_R12-Pad2_ Net-_R13-Pad2_ 10K		
R14  Net-_R13-Pad2_ Net-_R14-Pad2_ 10K		
R6  D5 Net-_R14-Pad2_ 20K		
R7  D6 Net-_R15-Pad2_ 20K		
R15  Net-_R14-Pad2_ Net-_R15-Pad2_ 10K		
R16  Net-_R15-Pad2_ Net-_C9-Pad2_ 10K		
R8  D7 Net-_C9-Pad2_ 20K		
XIC1  Net-_IC1-Pad1_ Net-_D3-Pad2_ Net-_D2-Pad2_ PA1 ? Net-_D2-Pad1_ Net-_IC1-Pad7_ Net-_IC1-Pad8_ Net-_IC1-Pad9_ GND Net-_IC1-Pad11_ D0 D1 D2 D3 D4 D5 D6 D7 VCC ATTINY2313A-P		

.end
